US08278345B2
Compound 256: 1-(1H-Benzoimidazol-5-yl)-4-butyryl-3-hydroxy-5-(5-methyl-furan-2-yl)-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and 5-Methyl-furan-2-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2,4-Dioxo-heptanoic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 5-Methyl-furan-2-carbaldehyde | 1 mmol | CC1=CC=C(O1)C=O | C6H6O2
reactant | 2,4-Dioxo-heptanoic acid ethyl ester | 1 mmol | C(C)OC(C(CC(CCC)=O)=O)=O | C9H14O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-4-butyryl-3-hydroxy-5-(5-methyl-furan-2-yl)-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C=2OC(=CC2)C)C(CCC)=O)O)=O | C20H19N3O4
